Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
SOB- presented to ___ and found to have bilat 
pleural effsuions. Attempted tap was unsuccessful.
 
Major Surgical or Invasive Procedure:
___ Transthoracic ultrasound. Right Pigtail chest tube 
placement.
___ Transthoracic ultrasound. Left thoracentesis
___ 1) Right video-assisted thoracoscopy converted to right 
thoracotomy, decortication of lung, along with pleural biopsy. 
2)Diagnostic esophagogastroscopy. 3. Flexible bronchoscopy.

 
History of Present Illness:
___ w/AS, s/p aortic valve replacement (tissue) ___, CAD, AF on 
coum-now held, CVA, CHF EF 45% w/SOB, bilateral pleural 
effusions. Had unsuccessful thorocentesis @ ___, admitted 
for possible pigtail placement. 30 pack year history, exposure 
to asbestos, w/weightloss. Admitted for drainage of effusion and 
diagnosis. 
 
Past Medical History:
1.  Aortic stenosis
2.  A. fib
3.  HTN
4.  Hypercholesterolemia
5.  h/o TIA (generalized weakness, diplopia, dysarthria) in 
___.  h/o stroke (R-sided paresthesias) in ___
7.  h/o intermittent vertigo after L ear infection
7.  h/o hernia repair
8.  h/o L shoulder surgery
 
Social History:
___
Family History:
Father died of stroke in his ___.  Brother has HTN and MS.  ___ 
is unaware of h/o MI, SCD. 
 
Physical Exam:
On discharge: 

Vital: 97.8 97.8 78 141/72 18 98% 2L NC

NAD, alert
Regular rate, afib
Lungs clear with dry crackles R upper lung fields
Abdomin soft, non-tender
Chest tube, thoracotomy sites clean, dry, intact
+1 leg edema

 
Pertinent Results:
___ WBC-10.5 RBC-3.40* Hgb-9.1* Hct-28.5* Plt ___
___ WBC-14.4* RBC-3.40* Hgb-9.2* Hct-28.9* Plt ___
___ WBC-9.7 RBC-2.91* Hgb-7.8* Hct-24.1* Plt ___
___ WBC-8.9 RBC-4.05* Hgb-10.8* Hct-33.2* Plt ___
___ Glucose-92 UreaN-8 Creat-0.6 Na-137 K-4.2 Cl-100 
HCO3-27 
___ Glucose-142* UreaN-22* Creat-1.0 Na-136 K-4.1 Cl-96 
HCO3-31 

Micro:
___ URINE      Source: Catheter. FINAL REPORT ___
   URINE CULTURE (Final ___: 
     PROTEUS MIRABILIS
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------     8 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------     8 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

___ 07:03AM BLOOD WBC-9.8 RBC-3.32* Hgb-8.9* Hct-27.7* 
MCV-83 MCH-26.6* MCHC-32.0 RDW-16.4* Plt ___
___ 07:58AM BLOOD ___
___ 07:03AM BLOOD Glucose-84 UreaN-6 Creat-0.6 Na-133 K-3.7 
Cl-98 HCO3-29 AnGap-10
 
Brief Hospital Course:
Pt was admitted and underwent a right pigtail catheter 
placemment for a moderate amount bloody fluid and left 
thoracentesis for 1100cc of serosang fluid. 

On ___, the patient experienced hypotension with systolic 
pressure dropping the high ___. He responded to fluid 
resuscitation. EKG and cardiac enzymes were normal. Creatinine 
also was elevated but also responded to fluids. He was 
maintained on a heparin drip. 

A chest CT revealed a trapped right lung with pleural band mass. 
 On ___ he underwent Right video-assisted thoracoscopy 
converted to right thoracotomy, decortication of lung, along 
with pleural biopsy and Diagnostic esophagogastroscopy.  He was 
transferred to the ICU and remained intubate. He was 
subsequently extubated without incident in the ICU.  He received 
1 unit of PRBCs for a low hematocrit. 

He was transferred to the floor on ___. Physical therapy 
evaluated the patient on ___ and deemed the patient appropriate 
for rehab at discharge. A CT guided pigtail was placed on ___ 
for a continued pleural effusion. He was treated for a UTI from 
cultures on ___.

On ___ the patient had a large tarry guaiac positive bowel 
movement. He was transfused 2 units and maintained his 
hematocrit. GI was consulted and recommended colonscopy, BID PPI 
and EGD. Anticoagulation was held. Hematocrit remained stable. 
The patient was also transfused on ___ for a chronically low 
hematocrit. All chest tubes and pigtails were removed over the 
course of several days.  

On ___, the patient was sent for colonoscopy and EGD. He 
refused these studies. He  was extensively counseled on the 
risks of not performing these studies, the risk being GI 
bleeding. He was also was told and acknowledged that this would 
limit his ability to be anticoagulated at this time. He was 
informed of his risk for stroke with a history of atrial 
fibrillation and continued to defers the study. 

Both the patient's wife and cardiologist Dr. ___ informed 
of his decision. He will follow-up with Dr. ___ in 1 week to 
discuss further anticoagulation.  

 
Medications on Admission:
lidocaine patch one patch topically to the left shoulder 12 
hours on and 12 hours off, Coumadin as directed, Refresh Tears 
eye drops to both eyes as needed for dry eyes, Toprol-XL 200 mg 
daily, levothyroxine 25 mcg daily, Lasix 40 mg daily, Zocor 10 
mg at bedtime, enalapril 10 mg daily, multivitamin with minerals 
one tablet daily, Tylenol ___ mg four times a day, Flomax 0.4 
mg at bedtime, Lexapro 10 mg daily, milk of magnesia PRN, 
bisacodyl PRN, Fleet enema PRN. 
 
Discharge Medications:
1. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
2. Levothyroxine 50 mcg Tablet Sig: 0.5 Tablet PO DAILY (Daily). 
 
3. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
4. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
5. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
6. Enalapril Maleate 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q 8H (Every 8 
Hours).  
8. Pantoprazole 40 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q12H (every 12 hours).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q4H (every 4 hours) as needed.  
11. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
12. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
14. Amoxicillin-Pot Clavulanate 250-62.5 mg/5 mL Suspension for 
Reconstitution Sig: One (1)  PO Q8H (every 8 hours) for 5 days.  


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bilateral pleural Effusions
Aortic Stenosis s/p valve replacement in ___, atrial 
fibrillation, CHF EF 45%, CVA ___ on warfarin, Hyperlipidemia, 
HTN, Hypothyroidism
Guaiac positive stools
PSH: s/p rotator cuff repair, CAD two-vessel disease, s/p knee 
replacement in ___. 

 
Discharge Condition:
Deconditioned

 
Discharge Instructions:
Call Dr. ___ ___ if experience:
-Fever > 101 or chills, Increased cough or shortness of breath
-Chest pain, Incision develops drainage.
-Chest-tube site cover site with a bandaid until healed
You may shower: No tub bathing or swimming for 6 weeks
Hold coumadin until seen by Dr. ___ in 1 week.
 
Followup Instructions:
___